US09326987B2
6-Bromo-1-(phenylsulfonyl)-1H-indazol-4-amine
6-Bromo-1H-indazol-4-amine (5 g) was dissolved in DMF (20 ml) and cooled in an ice bath. 60% Sodium hydride in mineral oil (0.94 g) was added portionwise and the reaction was left under an ice bath for 30 min. Benzenesulfonyl chloride (3 ml) in DMF (5 ml) was added slowly over 15 min and the reaction was left to warm up to RT overnight. Water (100 ml) was added and the reaction stirred for 20 min. Ethyl acetate (120 ml) was added and the water was separated, washed with ethyl acetate (50 ml×2) and the combined organics were washed with 7.5% lithium chloride (aq) (50 ml×2) then water (50 ml) before being separated and passed through a hydrophobic frit. The ethyl acetate was evaporated and the residue passed through a silica cartridge, eluting with DCM (ca. 300 ml) followed by diethyl ether (ca. 400 ml). Product containing pure fractions were combined and evaporated to dryness to give title compound, 5.9 g.

reactant | 6-Bromo-1H-indazol-4-amine | 5 g | BrC=1C=C(C=2C=NNC2C1)N | C7H6BrN3
reactant | Sodium hydride | [H-].[Na+]
reactant | Benzenesulfonyl chloride | 3 ml | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | Water | 100 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | Ethyl acetate | 120 ml | C(C)(=O)OCC | C4H8O2
product | 6-Bromo-1-(phenylsulfonyl)-1H-indazol-4-amine | BrC=1C=C(C=2C=NN(C2C1)S(=O)(=O)C1=CC=CC=C1)N | C13H10BrN3O2S
